US07488818B2
3-{5-(4-Fluorophenyl)-2-[(4-fluorophenylamino)-(4-trimethylsilanyloxy-phenyl)methyl]-5-trimethylsilanyloxypentanoyl}-4-phenyloxazolidin-2-one (10 mg) is suspended in MTB ether (1 ml) under argon while cooling in ice. N,O-Bistrimethylsilylacteamide (20.75 μl) is added, followed by tetrabutylphosphonium chloride (4.2 mg) and silver(I) oxide (3.2 mg). The mixture is stirred at room temperature. A reaction to give 1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-trimethylsilanyloxypropyl]-4-(4-trimethylsilanyloxyphenyl)azetidin-2-one is found by means of thin-layer chromatography and LC/MS comparison (M+H,-TMS,-HOTMS: 392).

reactant | 3-{5-(4-Fluorophenyl)-2-[(4-fluorophenylamino)-(4-trimethylsilanyloxy-phenyl)methyl]-5-trimethylsilanyloxypentanoyl}-4-phenyloxazolidin-2-one | 10 mg | FC1=CC=C(C=C1)C(CCC(C(=O)N1C(OCC1C1=CC=CC=C1)=O)C(C1=CC=C(C=C1)O[Si](C)(C)C)NC1=CC=C(C=C1)F)O[Si](C)(C)C | C39H46F2N2O5Si2
catalyst | tetrabutylphosphonium chloride | 4.2 mg | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
catalyst | silver(I) oxide | 3.2 mg | [Ag-]=O
solvent | ether | 1 ml | CCOCC | C4H10O
product | 1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-trimethylsilanyloxypropyl]-4-(4-trimethylsilanyloxyphenyl)azetidin-2-one | FC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)O[Si](C)(C)C)CCC(O[Si](C)(C)C)C1=CC=C(C=C1)F)=O | C30H37F2NO3Si2
